US07714126B2
Preparation of {2-[methyl-(5-nitro-pyridin-2-yl)-amino]-ethoxy}-acetic acid tert-butyl ester
(2-Hydroxy-ethyl)-methyl-(5-nitro-pyridin-2-yl)-amine (350 mg, 1.77 mmol) in THF (15 mL) and DMF (2 mL) was stirred with 60% NaH in oil (142 mg, 4.44 mmol) for 1 hr. The mixture was cooled and to this was added tert-butyl bromoacetate (1.31 mL, 8.88 mmol). The reaction mixture was allowed to stir overnight. The mixture was diluted with EtOAc, extracted with H2O and dried over MgSO4. The EtOAc layer was filtered, evaporated to dryness and yielded 262 mg following flash chromatography. ES-MS calcd for C14H21N3O5 (m/e) 311.34, obsd 312 (M+H).

reactant | (2-Hydroxy-ethyl)-methyl-(5-nitro-pyridin-2-yl)-amine | 1.77 mmol, 350 mg | OCCN(C1=NC=C(C=C1)[N+](=O)[O-])C | C8H11N3O3
reactant | NaH | [H-].[Na+]
reactant | tert-butyl bromoacetate | 8.88 mmol, 1.31 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {2-[methyl-(5-nitro-pyridin-2-yl)-amino]-ethoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COCCN(C1=NC=C(C=C1)[N+](=O)[O-])C)=O | C14H21N3O5
